US08912169B2
Step 1: Synthesis of benzyl 2-[trans-4-(amino)-cyclohexyl]acetate
To a solution of 2-[4-(tert-butoxycarbonylamino)cyclohexyl]acetic acid (1.0 g, 4 mmol) in DMF (10 mL) was added K2CO3 (600 mg, 4 mmol) followed by benzyl bromide (0.5 mL, 4.2 mmol). The resulting mixture was stirred for 16.75 hours, diluted with ether, washed with water (2×) followed by brine, dried over magnesium sulfate and concentrated. The residue was taken up in dichloromethane (12 mL). To this solution was added TFA (3 mL). The resulting solution was stirred for 2.5 hours then concentrated under reduced pressure. The residue was taken up in ethyl acetate, washed with saturated sodium bicarbonate solution followed by brine, dried over magnesium sulfate and concentrated under reduced pressure to give the title compound as a white solid.

reactant | 2-[4-(tert-butoxycarbonylamino)cyclohexyl]acetic acid | 4 mmol, 1.0 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)CC(=O)O | C13H23NO4
reactant | K2CO3 | 4 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 4.2 mmol, 0.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | benzyl 2-[trans-4-(amino)-cyclohexyl]acetate | N[C@@H]1CC[C@H](CC1)CC(=O)OCC1=CC=CC=C1 | C15H21NO2
